US07705034B2
Using general procedure B, 2-bromonaphthalene was reacted with benzaldehyde to give naphthalen-2-yl-phenyl-methanol as a colorless solid.

reactant | 2-bromonaphthalene | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | naphthalen-2-yl-phenyl-methanol | C1=C(C=CC2=CC=CC=C12)C(O)C1=CC=CC=C1 | C17H14O
